US05476671
Synthesis of N-(2,3-dihydroxypropyl)-N-dodecyl-2-hydroxyoctanamide (Structure 2)
N-(2,3-dihydroxypropyl)-N-dodecylamine (1.0 g, 0.0039 mole) and potassium hydroxide (0.01 g, 0.18 mmole) were heated to 85° C. under vacuum and methyl 2-hydroxyoctanoate (0.6718 g, 0.0039 mole) was added dropwise to the reaction. The reaction was heated under vacuum for 5 hours. A waxy off-white solid was obtained (crude yield=1.38 g). The waxy solid was recrystalized from hot hexane (yield=0.44 g).

reactant | N-(2,3-dihydroxypropyl)-N-dodecylamine | 0.0039 mole, 1.0 g | OC(CNCCCCCCCCCCCC)CO | C15H33NO2
reactant | potassium hydroxide | 0.18 mmole, 0.01 g | [OH-].[K+]
reactant | methyl 2-hydroxyoctanoate | 0.0039 mole, 0.6718 g | OC(C(=O)OC)CCCCCC | C9H18O3
product | N-(2,3-dihydroxypropyl)-N-dodecyl-2-hydroxyoctanamide | OC(CN(C(C(CCCCCC)O)=O)CCCCCCCCCCCC)CO | C23H47NO4
